US06716845B2
H) 1-(2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-piperazine
A solution of 2.6 ml N-benzylpiperazine in dimethylformamide (30 ml) is treated slowly with sodium hydride (510 mg). To this suspension is added toluene-4-sulfonic acid 2,2-dimethyl-[1,3]dioxolan-4-ylmethyl ester (0.8 g) and the mixture stirred overnight. The reaction mixture is evaporated, the residue is trated with water and the product extracted with ethyl acetate. The organic extract is dried and evaporated. The crude product is purified by flash chromatography on silica gel using heptane/ethyl acetate 1:1 as eluent. The purified intermediate (0.9 g) is dissolved in methanol (30 ml) and hydrogenated over palladium on charcoal (0.3 g). The catalyst is filtered off and the filtrate is evaporated to yield 0.54 g of the title compound as a waxy solid.

reactant | N-benzylpiperazine | 2.6 ml | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | sodium hydride | 510 mg | [H-].[Na+]
reactant | toluene-4-sulfonic acid 2,2-dimethyl-[1,3]dioxolan-4-ylmethyl ester | 0.8 g | CC1(OCC(O1)COS(=O)(=O)C1=CC=C(C=C1)C)C | C13H18O5S
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 1-(2,2-Dimethyl-[1,3]dioxolan-4-ylmethyl)-piperazine | 0.54 g | CC1(OCC(O1)CN1CCNCC1)C | C10H20N2O2
